US08293923B2
Step 1: (4-Cyclohexylamino-3-nitro-phenyl)methanol
A mixture of (4-Fluoro-3-nitrophenyl)methanol (1.00 g, 0.0058 mol), N,N-diisopropylethylamine (2.036 mL, 0.0117) and cyclohexanamine (2.005 mL, 0.0175 mol) in N,N-Dimethylformamide (2.46 mL) was placed in a microwave vial, the contents were mixed thoroughly then microwaved at 130° C. for 7 minutes. The resultant gel was dissolved in ethyl acetate then washed with 5% citric acid, brine, dried and concentrated to give the title compound.

reactant | (4-Fluoro-3-nitrophenyl)methanol | 0.0058 mol, 1.00 g | FC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C7H6FNO3
reactant | N,N-diisopropylethylamine | 2.036 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclohexanamine | 0.0175 mol, 2.005 mL | C1(CCCCC1)N | C6H13N
solvent | N,N-Dimethylformamide | 2.46 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Cyclohexylamino-3-nitro-phenyl)methanol | C1(CCCCC1)NC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C13H18N2O3
